US08461328B2
Trans [4-(2-methanesulfonyl-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester (900 mg, 2.95 mmol) was dissolved in DCM (7 mL) and trifluoroacetic acid (7 mL) was added. The mixture was stirred at room temperature for 1 h, then concentrated. The residue was taken up in methanol and purified by Isolute® SCX-2 column (gradient: methanol to 2 M NH3 in methanol) to give 594 mg (98%) of trans 4-(2-methanesulfonyl-ethyl)-cyclohexylamine. LCMS (method Q, ESI): RT=0.48 min, m+H=206.1; NMR (400 MHz, DMSO) δ: 3.09 (m, 2H), 2.93 (s, 3H), 2.48-2.41 (m, 1H), 1.78-1.64 (m, 4H), 1.58-1.51 (m, 2H), 1.30-1.18 (m, 1H), 1.03-0.82 (m, 4H).

reactant | Trans [4-(2-methanesulfonyl-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester | 2.95 mmol, 900 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCS(=O)(=O)C)=O | C14H27NO4S
reactant | trifluoroacetic acid | 7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
product | trans 4-(2-methanesulfonyl-ethyl)-cyclohexylamine | 594 mg, 98% | CS(=O)(=O)CC[C@@H]1CC[C@H](CC1)N | C9H19NO2S
